US04616007
(24ab) 3-(1-Methyltetrazol-5-ylthio)-propionic acid
5.43 g of 3-(1-methyltetrazol-5-ylthio)-propionic acid ethyl ester are dissolved in 20 ml of acetic acid, 4 ml of conc. HCl and 8 ml of water and the whole is stirred for 3.5 hours at 100°. After concentration of the reaction mixture by evaporation, the residue is partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The aqueous phase is separated off, acidified with 4N HCl and extracted twice with ethyl acetate. After drying and concentration by evaporation the title compound is obtained.

reactant | 3-(1-methyltetrazol-5-ylthio)-propionic acid ethyl ester | 5.43 g | C(C)OC(CCSC1=NN=NN1C)=O | C7H12N4O2S
reactant | HCl | 4 ml | Cl | ClH
reactant | water | 8 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-(1-Methyltetrazol-5-ylthio)-propionic acid | CN1N=NN=C1SCCC(=O)O | C5H8N4O2S
